US07410976B2
N-{1′-[(4-methoxyquinolin-2-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}acetamide
63.3 g of EDCI was added to a mixture of 16.5 g of 4-oxospiro[chroman-2,4′-piperidin]-6-ylacetamide TFA salt, 61.0 g of 4-methoxyquinoline-2-carboxylic acid, 45.9 g of HOBT, 50 mL of Et3N and 90 mL DMF, at 0° C., and the resulting mixture was stirred at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with water and aqueous saturated sodium carbonate solution successively, then dried over sodium sulfate, and then concentrated. The residue was purified through silica gel column chromatography (eluted with 3% MeOH/CHCl3), and the intended compound was obtained. 1H-NMR (300 MHz, CDCl3) δ: 8.21 (1H, dd, J=8.5, 1.3 Hz), 7.99 (1H, dd, J=8.5, 1.0 Hz), 7.94 (1H, dd, J=8.9, 2.7 Hz), 7.73 (1H, ddd, J=8.5, 6.9, 1.3 Hz), 7.67 (1H, d, J=2.7 Hz), 7.55 (1H, ddd, J=8.5, 6.9, 1.0 Hz), 7.34 (1H, br.s), 7.09 (1H, s), 7.01 (1H, d, J=8.9 Hz), 4.65-4.55 (1H, m), 4.09 (3H, s), 4.06-3.96 (1H, m), 3.58 (1H, dt, J=2.9, 12.7 Hz), 3.36 (1H, dt, J=2.9, 12.7 Hz), 2.83-2.69 (2H, m), 2.26-2.12 (1H, m), 2.17 (3H, s), 2.10-2.00 (1H, m), 1.96-1.75 (2H, m). MS [M+H]+=460.

reactant | EDCI | 63.3 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-oxospiro[chroman-2,4′-piperidin]-6-ylacetamide TFA salt | 16.5 g | OC(=O)C(F)(F)F.O=C1CC2(CCNCC2)OC2=CC=C(C=C12)CC(=O)N
reactant | 4-methoxyquinoline-2-carboxylic acid | 61.0 g | COC1=CC(=NC2=CC=CC=C12)C(=O)O | C11H9NO3
reactant | HOBT | 45.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 50 mL | CCN(CC)CC | C6H15N
product | N-{1′-[(4-methoxyquinolin-2-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}acetamide | COC1=CC(=NC2=CC=CC=C12)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)NC(C)=O | C26H25N3O5
